US06498163B1
To 8-isopropyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (212 mg, 0.85 mmol) was added 4-(4-methylpiperazin-1-yl)-aniline (323 mg, 1.69 mmol). The reaction mixture was heated at 175° C. for 10 minutes then cooled to room temperature and partitioned between saturated sodium bicarbonate and chloroform. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography eluting with 10% methanol in ethyl acetate. The fractions containing product were concentrated, and hexane and ethyl acetate were added to give a solid that was dissolved in chloroform and passed through an aluminum oxide column. The fractions containing product were concentrated, and upon addition of hexane and ethyl acetate, a solid formed providing 160 mg (50%) of 8-isopropyl-2-[4-(4-methylpiperazin-1-yl)-phenylamino]-8H-pyrido[2,3-d]pyrimidin-7-one, mp 221-222° C.

reactant | 8-isopropyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.85 mmol, 212 mg | C(C)(C)N1C(C=CC2=C1N=C(N=C2)S(=O)C)=O | C11H13N3O2S
reactant | 4-(4-methylpiperazin-1-yl)-aniline | 1.69 mmol, 323 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-isopropyl-2-[4-(4-methylpiperazin-1-yl)-phenylamino]-8H-pyrido[2,3-d]pyrimidin-7-one | 160 mg, 50% | C(C)(C)N1C(C=CC2=C1N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C21H26N6O
